US04894385
Methyl 4-[1-(2-trifluoromethylphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
374 mg of a 55% w/w suspension of sodium hydride in mineral oil were added to 1.44 g of methyl 4-mercaptobenzoate in 9.1 mg of dry dimethylformamide, whilst ice-cooling, and the resulting mixture was stirred at room temperature for 30 minutes. 2.14 g of 1-[2-chloro-2-(2-trifluoromethylphenyl)ethyl]imidazole in 11.2 ml of dry dimethylformamide were added to this solution, and the resulting mixture were heated at 60°-70° C. for 6 hours. At the end of this time, the reaction mixture was treated and purified by the same method as described in Example 1, to give 2.34 g of the title compound as white cyrstals, melting at 121°-126° C.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 4-mercaptobenzoate | 1.44 g | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-chloro-2-(2-trifluoromethylphenyl)ethyl]imidazole | 2.14 g | ClC(CN1C=NC=C1)C1=C(C=CC=C1)C(F)(F)F | C12H10ClF3N2
solvent | dimethylformamide | 9.1 mg | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 11.2 ml | CN(C=O)C | C3H7NO
product | Methyl 4-[1-(2-trifluoromethylphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 2.34 g | FC(C1=C(C=CC=C1)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1)(F)F | C20H17F3N2O2S
